US04918068
In 40 ml of methylene chloride was dissolved the diphenylmethyl 7-phenylacetamido-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate (3.04 g, 5 mmoles) obtained as above. The resultant solution was cooled down to -20° C. After adding pyridine (1.62 ml) and phosphorus pentachloride (2.08 g), the resultant mixture was stirred at 5° C. for 3 hours and then cooled again to -20° C. After a prompt addition of 4 ml of methanol, the resultant mixture was stirred at 20° C. for 2 hours. The reaction mixture was then cooled to -10° C., followed by addition of 20 ml of chilled water. The mixture obtained was agitated vigorously. An aqueous solution of sodium bicarbonate was added to the mixture to adjust its pH to 2.0. The organic layer was then separated, followed by its washing with an aqueous solution of sodium bicarbonate and then with saline. The organic solution was then dried magnesium sulfate and the solvent was distilled off under reduced pressure. Ethyl acetate (10 ml) was added to the residue and the resultant mixture was allowed to stand overnight in an ice box. Deposited crystals were collected by filtration, washed with ethyl acetate and then dried under reduced pressure, to give 1.34 g of diphenylmethyl 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4carboxylate as yellow powder (yield: 54%).

reactant | diphenylmethyl 7-phenylacetamido-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 5 mmoles, 3.04 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H29N3O4S2
reactant | pyridine | 1.62 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 2.08 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | diphenylmethyl 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4carboxylate | 1.34 g, yield: 54% | NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H23N3O3S2
